US09126931B2
8-[4-(1-Cyano-cyclohexyl)-piperazin-1-yl]-9-ethyl-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
9-Ethyl-6,6-dimethyl-11-oxo-8-piperazin-1-yl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (45 mg) and cyclohexanone (25 mg) were suspended in chloroform (2 ml), added with trimethylsilyl cyanide (30 mg) and zinc iodide (5 mg), and the mixture was stirred at 60° C. for 17 hrs. The reaction mixture was diluted with ethyl acetate (20 ml) and the organic layer was washed with 10% brine solution and concentrated under reduced pressure. The resulting residues were purified by silica gel column (dichloromethane/methanol (=99/1)) to obtain the title compound (12 mg, yield 30%).

reactant | 9-Ethyl-6,6-dimethyl-11-oxo-8-piperazin-1-yl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 45 mg | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCNCC1 | C25H26N4O
reactant | cyclohexanone | 25 mg | C1(CCCCC1)=O | C6H10O
reactant | trimethylsilyl cyanide | 30 mg | C[Si](C)(C)C#N | C4H9NSi
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc iodide | 5 mg | [I-].[Zn+2].[I-]
product | 8-[4-(1-Cyano-cyclohexyl)-piperazin-1-yl]-9-ethyl-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 12 mg, yield 30% | C(#N)C1(CCCCC1)N1CCN(CC1)C=1C(=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)CC | C32H35N5O
